US08076336B2
4,5-Dimethyl-1,2-dihydropyridazine-3,6-dione
Hydrazine dihydrochloride (83.6 g) was dissolved in water (20 ml), heated to 100° C., and 3,4-dimethylfuran-2,5-dione (100.4 g) was introduced while stirring. Then the mixture was heated to reflux for 3 h. Subsequently, the precipitate formed was filtered off with suction, washed with water and dried. The residue was suspended in EA (2 l), filtered off with suction, and was dried. 69.7 g of the title compound were obtained. LC-MS rt: 0.19 min [M+H]+: 141.1 (met. b)

reactant | Hydrazine dihydrochloride | 83.6 g | Cl.Cl.NN
reactant | 3,4-dimethylfuran-2,5-dione | 100.4 g | CC=1C(OC(C1C)=O)=O | C6H6O3
solvent | water | 20 ml | O | H2O
product | 4,5-Dimethyl-1,2-dihydropyridazine-3,6-dione | 69.7 g | CC=1C(NNC(C1C)=O)=O | C6H8N2O2
